US07429609B2
7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-carboxylic acid(furan-2-ylmethyl)-amide
376 mg of 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-carboxylic acid was dissolved in 10 mL of N,N-dimethylformamide, and added with 903 μl of N,N-diisopropylethylamine, 244 mg of 1-hydroxybenzotriazole monohydrate and 147 μl of furfurylamine, and stirred at room temperature for 10 minutes. The solution was cooled to 0° C., added with 509 mg of 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride, and stirred at room temperature overnight. After diluting with water and ethyl acetate, the organic phase was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the resultant crude product was purified by silica gel column chromatography, to afford 159 mg of the title compound as yellow crystals.

reactant | 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-carboxylic acid | 376 mg | FC=1C=C(C=C2C(=NNC12)\C=C\C=1C=NC=CC1)C(=O)O | C15H10FN3O2
reactant | N,N-diisopropylethylamine | 903 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole monohydrate | 244 mg | O.ON1N=NC2=C1C=CC=C2
reactant | furfurylamine | 147 μl | C(C1=CC=CO1)N | C5H7NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 509 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-carboxylic acid(furan-2-ylmethyl)-amide | 159 mg | O1C(=CC=C1)CNC(=O)C=1C=C2C(=NNC2=C(C1)F)\C=C\C=1C=NC=CC1 | C20H15FN4O2
